US08648200B2
4-(Difluoromethyl)benzoic acid
Dissolve methyl 4-(difluoromethyl)benzoate (2.855 g, 15.336 mmol) in MeOH (30 mL). Add potassium hydroxide (8.41 mL 2 equivalents, 30.7 mmol), and stir the mixture for 16 hours. Concentrate the reaction mixture under reduced pressure, and add EtOAc (100 mL) and 1 N HCl (50 mL). Stir for 30 minutes. Separate the layers. Dry the organics over Na2SO4; filter; collect the filtrate; and concentrate the filtrate under reduced pressure to give the titled compound as a white solid (2.541 g, 96% yield). 1H NMR (399.83 MHz, d6-DMSO) δ 13.29-13.28 (m, 1H), 8.04 (d, J=7.8 Hz, 2H), 7.67 (d, J=8.0 Hz, 2H), 7.24-6.97 (t, J=55.6, 1H).

reactant | methyl 4-(difluoromethyl)benzoate | 15.336 mmol, 2.855 g | FC(C1=CC=C(C(=O)OC)C=C1)F | C9H8F2O2
reactant | potassium hydroxide | 30.7 mmol, 8.41 mL, 2 equivalents | [OH-].[K+]
solvent | MeOH | 30 mL | CO | CH4O
product | 4-(Difluoromethyl)benzoic acid | 2.541 g, 96% yield | FC(C1=CC=C(C(=O)O)C=C1)F | C8H6F2O2
